US06589970B2
1-Phenyl-5-propyl-1H-pyrazole-4-carboxylic acid (6-hydroxy-naphthalen-2ylmethyl)-methyl-amide (3.2 g, 8 mmol), prepared in the previous step, was dissolved in 300 mL glacial acetic acid (with warming). A solution of bromine (0.41 mL, 8 mmol) in 50 mL of glacial acetic acid was added under nitrogen dropwise over 2 h to the reaction at room temperature. After the addition the reaction stirred for 2 days. The solvent was removed under reduced pressure and the residue diluted with methylene chloride. The organic layer was extracted two times with 5% NaHCO3, dried (MgSO4) and the solvent removed under reduced pressure to give 1-phenyl-5-propyl-1H-pyrazole-4-carboxylic acid (5-bromo-6-hydroxy-naphthalen-2-ylmethyl)-methyl-amide (3.77 g, 98.5%) as a pink solid, mp 205-207° C.

reactant | 1-Phenyl-5-propyl-1H-pyrazole-4-carboxylic acid (6-hydroxy-naphthalen-2ylmethyl)-methyl-amide | 8 mmol, 3.2 g | OC=1C=C2C=CC(=CC2=CC1)CN(C(=O)C=1C=NN(C1CCC)C1=CC=CC=C1)C | C25H25N3O2
reactant | bromine | 8 mmol, 0.41 mL | BrBr | Br2
solvent | acetic acid | 300 mL | C(C)(=O)O | C2H4O2
solvent | acetic acid | 50 mL | C(C)(=O)O | C2H4O2
product | 1-phenyl-5-propyl-1H-pyrazole-4-carboxylic acid (5-bromo-6-hydroxy-naphthalen-2-ylmethyl)-methyl-amide | 3.77 g, 98.5% | BrC1=C2C=CC(=CC2=CC=C1O)CN(C(=O)C=1C=NN(C1CCC)C1=CC=CC=C1)C | C25H24BrN3O2
